US04536518
(A) 3-Ethoxycarbonyl-4-(4-fluorophenyl)-4-phenylbut-3-enoic Acid
A solution of commercially available 4-fluorobenzophenone (42 g., 0.21 mole), diethyl succinate (43.6 g., 0.25 mole) and potassium t-butoxide (23.7 g., 0.21 mole) in t-butanol (250 ml.) was stirred at reflux for 6 hours and then stirred at room temperature for an additional 16 hours. The reaction mixture was then acidified with 6N hydrochloric acid (200 ml.), evaporated under vacuum to remove the t-butanol and extracted with ether (2×250 ml.). The combined ether extract was extracted with 10% aqueous ammonium hydroxide (2×350 ml.). The combined aqueous extract was washed with ether (2×200 ml.), re-acidified with 6N hydrochloric acid and extracted again with ether (2×400 ml.). The combined ether extract was dried (MgSO4), filtered and evaporated under vacuum to an oil, which was crystallized by dissolution in hexane (100 ml.) followed by scratching the flask to initiate crystallization (48 g., 70% yield, m.p. 98°-99° C., elemental analysis calculated: 69.50% C; 5.22% H; 5.78% F; found: 69.34% C; 5.36% H; 6.09% F).

reactant | 4-fluorobenzophenone | 0.21 mole, 42 g | FC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9FO
reactant | diethyl succinate | 0.25 mole, 43.6 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | potassium t-butoxide | 0.21 mole, 23.7 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 6N, 200 ml | Cl | ClH
solvent | t-butanol | 250 ml | C(C)(C)(C)O | C4H10O
product | 3-Ethoxycarbonyl-4-(4-fluorophenyl)-4-phenylbut-3-enoic Acid | 70% yield | C(C)OC(=O)C(CC(=O)O)=C(C1=CC=CC=C1)C1=CC=C(C=C1)F | C19H17FO4
